US04820871
0.5 mole of α-naphthyl-phenylamine was taken together with 0.53 mole of methyl isocyanate and 0.6 g of di-n-butyl phosphate in 150 ml of toluene. The mixture was warmed at 100° C. for 24 hours, with stirring, and then cooled to 10° C. After the product had been filtered off, washed with 150 ml of cold toluene and dried, 0.4 mole of N-methyl-N'-phenyl-N'-α-naphthyl-urea was obtained. Melting point: 146° C./yield: 80% of theory,

reactant | α-naphthyl-phenylamine | 0.5 mole | C1(=CC=CC2=CC=CC=C12)NC1=CC=CC=C1 | C16H13N
reactant | methyl isocyanate | 0.53 mole | CN=C=O | C2H3NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | di-n-butyl phosphate | 0.6 g | P(=O)(OCCCC)(OCCCC)[O-]
product | N-methyl-N'-phenyl-N'-α-naphthyl-urea | 0.4 mole, yield: 80% | CNC(=O)N(C1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C18H16N2O
